Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Ciprofloxacin / Reglan
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, nausea, vomiting.
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The pt is a ___ with hx of open gastric bypass in ___ and 
ulcerative colitis currently without flares who has experienced 
intermittent severe episodes of vomiting and abdominal pain 
since her gastric bypass operation, who presented to ___ 
___ yesterday with abdominal pain and vomiting. The pain 
started yesterday suddenly in her LLQ, and was cramping in 
nature. She had associated bilious, non-bloody emesis. No 
fevers, with some associated chills. She has had a decreased 
appetite for months. An NGT was placed, and she was kept NPO and 
placed on IVF. A CT abdomen/pelvis showed jejunal 
intussusception at the level of her distal anastomosis (also 
seen on CTs on ___ and ___, cholelithiasis unchanged from 
prior CTs, and she was transferred to ___ for surgical 
consultation for her intussusception. Her last BM was this 
morning, which she noted to have some associated dry blood, 
which is her baseline (she has stool only 1x week ___ her UC).
.
Of note, she presented with similar symptoms last week to ___ 
___, where a CT abdomen/pelvis similary showed 
intussesception at her distal anastamosis. No surgical consult 
was obtained at that time, and her abdominal pain and nausea 
improved with IVF and prn zofran.  A gastroscopy from ___ 
showed normal gastric bypass anatomy with normal and widely 
patent anastomosis, normal efferent limb and normal appearing 
mucosa. Colonoscopy from the same date showed minimal reactive 
proctosigmoiditis, but was otherwise normal.
 
Past Medical History:
Past Medical History:
- Obesity (preop weight 210 lbs prior to ___urrently 145 lbs)  
- Depression
- Gallstones
- Ovarian cyst
- Ulcerative colitis (previously on Asacol and prednisone years
ago, currently without recent flares and not on medications
Managed by Dr. ___ at ___
- Arthritis
.
Past Surgical History:
- Open Roux-En-Y gastric bypass ___ at ___ 
___ (___)
- Abdominoplasty ___
- Bilateral breast reduction ___
 
Social History:
___
Family History:
Father with heart disease, T2DM. Mother with breast cancer.

 
Physical Exam:
Vital signs: T 97.1, P 86-92, BP 114/82, RR 18, O2 94%RA
Constitutional: No acute distress. 
Neuro: Alert and oriented to person, place and time.
Cardiac: Regular, rate and rhythm, NL S1,S2, No MRG
Lungs: CTA bilaterally
Abdomen: Soft, non-distended
Ext: 2+ distal pulses, no peripheral edema.
 
Pertinent Results:
___ 09:30PM BLOOD calTIBC-293 VitB12-261 Folate-12.0 
Ferritn-60 TRF-225
___ 09:30PM BLOOD Calcium-8.4 Iron-101
___ Thiamine: PENDING ON DISCHARGE
___ 09:20AM BLOOD WBC-9.2 RBC-4.71 Hgb-12.7 Hct-39.0 MCV-83 
MCH-26.9* MCHC-32.5 RDW-20.7* Plt ___
.
___ Labs:
___
WBC: 10.1
N: 93, B 2, L 4, M 1, E 0, B 0
Hgb: 13.1
Hct: 39.8
Plt: 269
.
Na: 139
K: 4
Cl: 106
HCO3: 26
BUN: 9
Cr: 26
Glucose: 129
.
ALT: 27
AST: 10
AlkPhos: 96
TBili: 0.24
Alb: 3.9
.
Lactate: 0.9
Ca: 9.1
.
___b/pelvis with po/iv contrast:
CT ABDOMEN AND PELVIS:
There is extensive postsurgical change in the upper abdomen as 
before. Lapsed displaced bowel is now demonstrated in the left 
upper quadrant most suggestive of jejunal intussusception at the 
level of the distal anastomosis.  Nasogastric tube is in place 
as before.  Bowel contrast does not pass below the level of the 
distal anastomosis.  Gallstones are again noted in the dependent 
portion of the gallbladder. The liver, pancreas, spleen, adrenal 
glands and kidneys are unremarkable as demonstrated previously.  
No lymphadenopathy is apparent. A large left pelvic adnexal cyst 
that appears to contain at least one septation, is unchanged.  
This measures 7.4 cm in greatest dimension in transverse 
section. In addition, there is now a smaller right pelvic 
adnexal cyst that measures approximately 1.7 cm in diameter. No 
free fluid is apparent.
IMPRESSION:
1) USUAL POSTSURGICAL FINDINGS IN THE LEFT UPPER QUADRANT ARE
REDEMONSTRATED.  ON THE CURRENT STUDY, FINDINGS ARE MOST
SUGGESTIVE OF INTUSSUSCEPTION IN THE REGION OF A JEJUNOJEJUNAL
ANASTOMOSIS.       
2) CHOLELITHIASIS.
.
___b/pelvis with po/iv contrast:
CT ABDOMEN AND PELVIS:
There is extensive postsurgical change in the upper abdomen as 
before. Findings are consistent with gastric bypass procedure. 
There are suture lines across the body of the stomach and in the 
left upper quadrant between two loops of small bowel.  A viscus 
consistent with a segregated portion of the stomach in this 
region is indented by a second loop of bowel which is contiguous 
with the second suture line and inverted. There are multiple 
gallstones in the dependent portion of the gallbladder as 
before. The liver, pancreas, spleen, adrenal glands and kidneys 
are unremarkable.  No lymphadenopathy is apparent. There is a 
large left pelvic adnexal cyst as demonstrated earlier. This now 
measures 7.5 cm x 5.8 cm in greatest dimension in transverse 
section, probably unchanged. There is evidence for septation 
along the medial aspect of this lesion.  Pelvic structures are 
otherwise unremarkable.  No free fluid is noted. IMPRESSION:
1) UNUSUAL POSTSURGICAL FINDINGS IN THE LEFT UPPER QUADRANT. 
ALTHOUGH A SHORT JEJUNO-JEJUNAL INTUSSUSCEPTION IS POSSIBLE, THE
APPEARANCE IS MORE SUGGESTIVE OF A TWISTED OR COMPRESSED SHORT
LOOP OF SMALL BOWEL AT THE SURGICAL SITE (seen also in ___
CT). 
.
___ OSH gastroscopy:
PROCEDURE:
After informed consent was obtained, video gastroscope was 
advanced through the mouth, esophagus, gastric pouch and into 
the efferent limb of bowel. A careful inspection was made upon 
withdrawal of the scope including careful views of the 
anastomosis.  FINDINGS: The patient has normal gastric bypass 
anatomy with normal and widely patent anastomosis, normal 
efferent limb and normal mucosa.  Esophagus is normal. 
IMPRESSION: Normal post bypass gastroscopy.
.
___ OSH Colonoscopy:
FINDINGS: There was faint erythema and faint loss of vascular 
pattern in the rectum and distal sigmoid consistent with very 
mildly active ulcerative proctosigmoiditis.  The remainder of 
the exam is normal with the  exception of a very slight patchy 
erythema in various colonic segments throughout the colon.  
IMPRESSION: Minimal reactive proctosigmoiditis with likely 
minimal more proximal histologic involvement.
 
Brief Hospital Course:
Ms. ___ ___ s/p Roux-en-Y gastric bypass in ___ at ___ 
___, presented to ___ for 
surgical consultation after she was seen at ___ with 
nausea/vomiting/abdominal pain found to have evidence of 
intussesception at her jejunojejunostomy anastamosis site (see 
report above). At ___ a nasogastric tube was placed, 
and labs were all unremarkable, with a normal lactate. She was 
made NPO and IVF were begun. On arrival to ___ ED, her 
abdominal pain, nausea and vomiting had improved, and on exam 
she had a non-acute abdomen. She had a bowel movement the 
morning of admission, and was passing flatus. Given her 
non-actue abdomen without clinical signs of obstruction, the 
decision was made not to go to the operating room for treatment 
of her radiologic intussesception. She was admitted overnight 
and received a "banana bag," IVF, with NGT left in overnight. 
Nutrition labs were sent and were all normal, with thiamine 
pending on discharge. NGT was removed on HD2. The patient was 
given the option to follow up at ___ for 
potential future revision of her bypass, or at ___. She 
elected to follow up at the ___ Bariatric Surgery 
program for ongoing management, and was given the necessary 
enrollment forms on discharge. Of note, she did present with a 
depressed mood and frustrated with her nausea/abdominal pain for 
the past ___ years since her bypass: she was evaluated by the 
Psychiatry service, who determined she has major depressive 
disorder, and recommended she begin Remeron 7.5 mg qhs. She will 
follow up with her PCP to manage her Remeron dosage. She was 
also instructed to coordiante with her PCP and insurance company 
arrangement for an outpatient psychiatrist and therapist. On 
discharge her abdominal pain, nausea, and vomiting had all 
improved. She was discharged on a regular diet which she was 
tolerating.   
 
Medications on Admission:
1. lorazepam 1 mg Tablet Sig: One (1) Tablet PO at bedtime as 
needed.  
2. ondansetron 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO every eight (8) hours as needed for nausea
 
Discharge Medications:
1. lorazepam 1 mg Tablet Sig: One (1) Tablet PO at bedtime as 
needed.  
2. ondansetron 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO every eight (8) hours as needed for nausea.
Disp:*15 Tablet, Rapid Dissolve(s)* Refills:*0*
3. multivitamin with minerals     Tablet Sig: One (1) Tablet PO 
twice a day.  
4. Remeron 15 mg Tablet Sig: 0.5 Tablet PO at bedtime.
Disp:*21 Tablet(s)* Refills:*0*
5. thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain
Nausea
Intussussception
Major Depressive Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with abdominal pain and 
nausea.  You were treated with intravenous fluids, intravenous 
fluids containing thiamine, folic acid and vitamin B12 and 
antiemetics.  Your symptoms have improved and you were able to 
tolerate a regular diet.  You are now preparing for discharge to 
home with the following instructions: 
Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.
Please resume all regular home medications , unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.
Avoid driving or operating heavy machinery while taking pain 
medications.
 
Followup Instructions:
___